US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (101.1 mg, 0.270 mmol) and L-(−)-proline (93.3 mg, 0.810 mμmol) according to Reference R and the general procedure for reductive amination to give (S)-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)pyrrolidine-2-carboxylic acid as a light yellow solid. MS (ESI) m/z: Calculated: 473.2; Observed: 474.2 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.270 mmol, 101.1 mg | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | L-(−)-proline | 93.3 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | (S)-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)pyrrolidine-2-carboxylic acid | FC=1C=C(CN2[C@@H](CCC2)C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C27H24FN3O2S
